US06251911B1
With ice-cooling, 10.3 ml (10.3 mmol) of DISAL-H are added to 550 mg (1.29 mmol) of 4-(3-chloro-phenylamino)-3-{[4-(pyrid-3-yl)-phenyl]-methyleneamino}-1H-pyrazolo[3,4-d]pyrimidine that have been dissolved in 25 ml of DMEU and the reaction mixture is stirred for 60 min. 15 ml of ethyl acetate are added and the mixture is stirred for 5 min and diluted with 300 ml of methanol and 1 ml of water; 20 g of Na2SO4 are added and after 15 min the mixture is filtered and the filtrate is concentrated by evaporation in a rotary evaporator. The residue is poured into 0.5 liter of water and 0.7 liter of ethyl acetate, and the aqueous phase is separated off and extracted twice more with ethyl acetate. The organic phases are washed 20 times with water (until DMEU-free) and finally with brine, dried (Na2SO4) and concentrated by evaporation. Stirring in methanol and filtration until clear and stirring in ethyl acetate and diethyl ether yield 4-(3-chloro-phenylamino)-3-[4-(pyrid-3-yl)-benzylamino]-1H-pyrazolo[3,4-d]pyrimidine; TLC: Rf=0.47 (CHCl3/methano/H2O/acetic acid=85:13:1.5:0.5); HPLC: tRet(grad20-100)=6.4; FAB-MS: (M+H)+=428.

reactant | 4-(3-chloro-phenylamino)-3-{[4-(pyrid-3-yl)-phenyl]-methyleneamino}-1H-pyrazolo[3,4-d]pyrimidine | 1.29 mmol, 550 mg | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2N=CC2=CC=C(C=C2)C=2C=NC=CC2 | C23H16ClN7
reactant | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
reactant | Na2SO4 | 20 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | DMEU | 25 ml | CN1CCN(C1=O)C | C5H10N2O
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 4-(3-chloro-phenylamino)-3-[4-(pyrid-3-yl)-benzylamino]-1H-pyrazolo[3,4-d]pyrimidine | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2NCC2=CC=C(C=C2)C=2C=NC=CC2 | C23H18ClN7
